US09102626B2
7-(dimethylamino)-3H-phenothiazin-3-one (CPD-18)
To a solution of 0.5 g (1.56 mmol) of Methylene blue in 50 mL of water was added 0.53 g (3.12 mmol) of AgNO3 dissolved in excess NH4OH. The reaction mixture was heated to reflux for an hour, filtered and extracted with EtOAc (20×5 mL). The organic layer was washed with brine, dried over anhydrous Na2SO4, concentrated under diminished pressure. The dark solid was purified on a silica gel column. Elution with 9:1 EtOAc/MeOH gave CPD-18 as a dark solid: yield-25 mg (6%); silica gel TLC Rf 0.27 (9:1 EtOAc/MeOH); 1H NMR (CDCl3) δ 3.16 (s, 1H), 6.60 (d, 1H, J=2.8 Hz), 6.69 (d, 1H, J=2.4 Hz), 6.83 (d, 1H, J=2 Hz), 6.86 (d, 1H, J=2.8 Hz), 7.67 (d, 1H, J=10 Hz), 7.71 (d, 1H, J=9.2 Hz); mass spectrum (MALDI-TOF), m/z 257.07 (M+H)+.

reactant | Methylene blue | 1.56 mmol, 0.5 g | CN(C)C=1C=CC2=C(C1)SC3=CC(=[N+](C)C)C=CC3=N2
reactant | EtOAc MeOH | CCOC(=O)C.CO
solvent | water | 50 mL | O | H2O
solvent | NH4OH | [NH4+].[OH-]
catalyst | AgNO3 | 3.12 mmol, 0.53 g | [N+](=O)([O-])[O-].[Ag+]
product | 7-(dimethylamino)-3H-phenothiazin-3-one | CN(C=1C=C2SC3=CC(C=CC3=NC2=CC1)=O)C | C14H12N2OS
